US05597820
To a solution of 7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.00 g) in dimethylformamide (10 ml) were added 60% sodium hydride (in oil) (0.25 g) and 2-iodopropane (1.00 g) and the mixture was stirred at room temperature for a day. Water was added to the reaction solution and extraction with ethyl acetate was conducted. The solvent was distilled off under reduced pressure and the resulting residue was subjected to purification by column chromatography using ethyl acetate/hexane [1:4 (v/v)] to give 7-methoxycarbonyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (0.30 g).

reactant | 7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.00 g | COC(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C10H9NO4
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 2-iodopropane | 1.00 g | IC(C)C | C3H7I
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-methoxycarbonyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 0.30 g | COC(=O)C1=CC2=C(N(C(CO2)=O)C(C)C)C=C1 | C13H15NO4
